US06545108B1
(2,5-di-pyridin-3-yl-pyrrol-1-yl)-carbamic acid 2-trimethylsilanyl-ethyl ester (1 g, 2.6 mmol) is treated with a 1M solution of TBAF in THF (5.2 ml, 5.2 mmol). The resulting solution is stirred overnight under Ar at rt, then quenched with glacial acetic acid (0.3 ml, 5.2 mmol) and diluted with toluene. The resulting solution is passed through a short plug of silica gel and concentrated in vacuo to afford 2,5-Di-pyridin-3-yl-pyrrol-1-ylamine.

reactant | (2,5-di-pyridin-3-yl-pyrrol-1-yl)-carbamic acid 2-trimethylsilanyl-ethyl ester | 2.6 mmol, 1 g | C[Si](CCOC(NN1C(=CC=C1C=1C=NC=CC1)C=1C=NC=CC1)=O)(C)C | C20H24N4O2Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 5.2 mmol, 5.2 ml | C1CCOC1 | C4H8O
reactant | acetic acid | 5.2 mmol, 0.3 ml | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,5-Di-pyridin-3-yl-pyrrol-1-ylamine | N1=CC(=CC=C1)C=1N(C(=CC1)C=1C=NC=CC1)N | C14H12N4
